US08110579B2
Add, dropwise, a solution of 5 g of ethyl (2E,4E)-2-azido-5-(2,6-dimethoxyphenyl)penta-2,4-dienoate (16.5 mmol) in 60 mL of DCM to a solution of 4.37 g (16.7 mmol) of triphenylphosphine in 40 mL of DCM. Stir the reaction mixture for 2 h at RT, then concentrate under reduced pressure. Solidify the residue obtained in 100 mL of isopropyl ether, then filter on a frit and rinse with 50 mL of isopropyl ether, giving 7.9 g of ethyl (2E,4E)-5-(2,6-dimethoxyphenyl)-2-[(triphenylphosphoranylidene)amino]penta-2,4-dienoate in the form of a white solid.

reactant | ethyl (2E,4E)-2-azido-5-(2,6-dimethoxyphenyl)penta-2,4-dienoate | 16.5 mmol, 5 g | N(=[N+]=[N-])\C(\C(=O)OCC)=C\C=C\C1=C(C=CC=C1OC)OC | C15H17N3O4
reactant | triphenylphosphine | 16.7 mmol, 4.37 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | ethyl (2E,4E)-5-(2,6-dimethoxyphenyl)-2-[(triphenylphosphoranylidene)amino]penta-2,4-dienoate | 7.9 g, Yield=91% | COC1=C(C(=CC=C1)OC)/C=C/C=C(\C(=O)OCC)/N=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H32NO4P
